**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  EFD-Style Offline Flyback Transformers
* Matchcode:              WE-OLEFD
* Library Type:           Pspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-10-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	

.subckt	OLEFD_EFD20_7508112327		3  2  1  6  5  4  8  11	
.param RxLkg=3108.88ohm				
.param Leakage=9.1uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	195.45uH	
Rser1	3b	2	610mohm	
Lpri2	2a	2b	195.45uH	
Rser2	2b	1	610mohm	
Laux1	6	6a	2uH	
Rser3	6a	5	76mohm	
Laux2	5	5a	9.68uH	
Rser4	5a	4	160mohm	
Lsec1	8	8a	11.52uH	
Rser5	8a	11	61mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1        1				
.param Cprm1=53.55pf				
.param Cprm2=51.2pf				
.param Rdmp1=68327.13ohm				
.param Rdmp2=68327.13ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	8	0	20meg	
Rg19	11	0	20meg	
.ends				
.subckt	OLEFD_EFD20_7508112510		3  2  1  6  5  4  8  11	
.param RxLkg=2837.54ohm				
.param Leakage=8uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	196uH	
Rser1	3b	2	610mohm	
Lpri2	2a	2b	196uH	
Rser2	2b	1	610mohm	
Laux1	6	6a	2uH	
Rser3	6a	5	76mohm	
Laux2	5	5a	9.68uH	
Rser4	5a	4	160mohm	
Lsec1	8	8a	46.08uH	
Rser5	8a	11	190mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1        1				
.param Cprm1=49.68pf				
.param Cprm2=47.87pf				
.param Rdmp1=70938.42ohm				
.param Rdmp2=70938.42ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	8	0	20meg	
Rg19	11	0	20meg	
.ends				
.subckt	OLEFD_EFD20_7508112511		3  2  1  6  5  4  8  11	
.param RxLkg=2418.67ohm				
.param Leakage=7uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	196.5uH	
Rser1	3b	2	770mohm	
Lpri2	2a	2b	196.5uH	
Rser2	2b	1	770mohm	
Laux1	6	6a	2uH	
Rser3	6a	5	97mohm	
Laux2	5	5a	9.68uH	
Rser4	5a	4	207mohm	
Lsec1	8	8a	72uH	
Rser5	8a	11	232mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1        1				
.param Cprm1=52.35pf				
.param Cprm2=49.725pf				
.param Rdmp1=69104.99ohm				
.param Rdmp2=69104.99ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	8	0	20meg	
Rg19	11	0	20meg	
.ends				
.subckt	OLEFD_EFD20_750811611		3  2  1  6  5  4  7  10  8  11	
.param RxLkg=6367.15ohm				
.param Leakage=18uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	191uH	
Rser1	3b	2	630mohm	
Lpri2	2a	2b	191uH	
Rser2	2b	1	630mohm	
Laux1	6	6a	2.88uH	
Rser3	6a	5	94mohm	
Laux2	5	5a	13.52uH	
Rser4	5a	4	200mohm	
Lsec1	7	7a	2uH	
Rser5	7a	10	14mohm	
Lsec2	8	8a	2uH	
Rser6	8a	11	14mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=49.95pf				
.param Cprm2=47.7pf				
.param Rdmp1=70746.15ohm				
.param Rdmp2=70746.15ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				
.subckt	OLEFD_EFD20_7508116312		3  2  1  6  5  4  7  10  8  11	
.param RxLkg=2968.28ohm				
.param Leakage=12uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	194uH	
Rser1	3b	2	620mohm	
Lpri2	2a	2b	194uH	
Rser2	2b	1	620mohm	
Laux1	6	6a	2uH	
Rser3	6a	5	75mohm	
Laux2	5	5a	9.68uH	
Rser4	5a	4	160mohm	
Lsec1	7	7a	6.48uH	
Rser5	7a	10	46mohm	
Lsec2	8	8a	6.48uH	
Rser6	8a	11	46mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=102.15pf				
.param Cprm2=50.1pf				
.param Rdmp1=49471.29ohm				
.param Rdmp2=49471.29ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				
.subckt	OLEFD_EFD20_750811643		3  2  1  6  5  4  7  10  8  11	
.param RxLkg=2827.95ohm				
.param Leakage=8.2uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	195.9uH	
Rser1	3b	2	770mohm	
Lpri2	2a	2b	195.9uH	
Rser2	2b	1	770mohm	
Laux1	6	6a	2uH	
Rser3	6a	5	96mohm	
Laux2	5	5a	9.68uH	
Rser4	5a	4	207mohm	
Lsec1	7	7a	25.92uH	
Rser5	7a	10	172mohm	
Lsec2	8	8a	25.92uH	
Rser6	8a	11	172mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=52.55pf				
.param Cprm2=49.87pf				
.param Rdmp1=68974.3ohm				
.param Rdmp2=68974.3ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				
.subckt	OLEFD_EFD20_750811913		3  2  1  6  5  4  7  10  8  11  9  12	
.param RxLkg=6748.14ohm				
.param Leakage=20uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	190uH	
Rser1	3b	2	770mohm	
Lpri2	2a	2b	190uH	
Rser2	2b	1	770mohm	
Laux1	6	6a	2.88uH	
Rser3	6a	5	115mohm	
Laux2	5	5a	2.88uH	
Rser4	5a	4	244mohm	
Lsec1	7	7a	2uH	
Rser5	7a	10	27mohm	
Lsec2	8	8a	2uH	
Rser6	8a	11	27mohm	
Lsec3	9	9a	3.92uH	
Rser7	9a	12	37mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2 Lsec3      1				
.param Cprm1=54.9pf				
.param Cprm2=51.95pf				
.param Rdmp1=67481.41ohm				
.param Rdmp2=67481.41ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg13	9	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
Rg21	12	0	20meg	
.ends				
.subckt	OLEFD_EFD20_750811914		3  2  1  6  5  4  7  10  8  11  9  12	
.param RxLkg=8816.85ohm				
.param Leakage=26uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	187uH	
Rser1	3b	2	790mohm	
Lpri2	2a	2b	187uH	
Rser2	2b	1	790mohm	
Laux1	6	6a	2uH	
Rser3	6a	5	97mohm	
Laux2	5	5a	9.68uH	
Rser4	5a	4	210mohm	
Lsec1	7	7a	1.28uH	
Rser5	7a	10	22mohm	
Lsec2	8	8a	1.28uH	
Rser6	8a	11	22mohm	
Lsec3	9	9a	15.68uH	
Rser7	9a	12	142mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2 Lsec3      1				
.param Cprm1=54.35pf				
.param Cprm2=51.2pf				
.param Rdmp1=67821.96ohm				
.param Rdmp2=67821.96ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg13	9	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
Rg21	12	0	20meg	
.ends				
.subckt	OLEFD_EFD20_7508112513		3  2  1  5  4  7  10	
.param RxLkg=4592.05ohm				
.param Leakage=12uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	194uH	
Rser1	3b	2	640mohm	
Lpri2	2a	2b	194uH	
Rser2	2b	1	640mohm	
Laux1	5	5a	6.48uH	
Rser3	5a	4	138mohm	
Lsec1	7	7a	23.12uH	
Rser5	7a	10	67mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=42.68pf				
.param Cprm2=40.535pf				
.param Rdmp1=76534.22ohm				
.param Rdmp2=76534.22ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	4	0	20meg	
Rg11	7	0	20meg	
Rg19	10	0	20meg	
.ends				
.subckt	OLEFD_EFD20_7508112330		3  2  1  5  4  7  10	
.param RxLkg=3751.57ohm				
.param Leakage=10.1uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	194.95uH	
Rser1	3b	2	790.5mohm	
Lpri2	2a	2b	194.95uH	
Rser2	2b	1	790.5mohm	
Laux1	5	5a	18uH	
Rser3	5a	4	283mohm	
Lsec1	7	7a	11.52uH	
Rser5	7a	10	30mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=45.3pf				
.param Cprm2=43.25pf				
.param Rdmp1=74288.61ohm				
.param Rdmp2=74288.61ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	4	0	20meg	
Rg11	7	0	20meg	
Rg19	10	0	20meg	
.ends				
.subckt	OLEFD_EFD20_7508112512		3  2  1  5  4  7  10	
.param RxLkg=4435.3ohm				
.param Leakage=12uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	194uH	
Rser1	3b	2	635mohm	
Lpri2	2a	2b	194uH	
Rser2	2b	1	635mohm	
Laux1	5	5a	6.48uH	
Rser3	5a	4	138mohm	
Lsec1	7	7a	15.68uH	
Rser5	7a	10	45mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=45.75pf				
.param Cprm2=43.7pf				
.param Rdmp1=73921.68ohm				
.param Rdmp2=73921.68ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	4	0	20meg	
Rg11	7	0	20meg	
Rg19	10	0	20meg	
.ends				
.subckt	OLEFD_EFD20_750811612		3  2  1  5  4  6  9  7  10	
.param RxLkg=3575.07ohm				
.param Leakage=10uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	195uH	
Rser1	3b	2	780mohm	
Lpri2	2a	2b	195uH	
Rser2	2b	1	780mohm	
Laux1	5	5a	28.88uH	
Rser3	5a	4	350mohm	
Lsec1	6	6a	2uH	
Rser5	6a	9	15mohm	
Lsec2	7	7a	2uH	
Rser6	7a	10	15mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=48.9pf				
.param Cprm2=0pf				
.param Rdmp1=71501.39ohm				
.param Rdmp2=71501.39ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	4	0	20meg	
Rg11	6	0	20meg	
Rg12	7	0	20meg	
Rg19	9	0	20meg	
Rg20	10	0	20meg	
.ends				
.subckt	OLEFD_EFD20_750811613		3  2  1  5  4  6  9  7  10	
.param RxLkg=3756.09ohm				
.param Leakage=10uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	195uH	
Rser1	3b	2	640mohm	
Lpri2	2a	2b	195uH	
Rser2	2b	1	640mohm	
Laux1	5	5a	18uH	
Rser3	5a	4	229mohm	
Lsec1	6	6a	1.28uH	
Rser5	6a	9	9mohm	
Lsec2	7	7a	6.48uH	
Rser6	7a	10	37mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=44.3pf				
.param Cprm2=41.95pf				
.param Rdmp1=75121.76ohm				
.param Rdmp2=75121.76ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	4	0	20meg	
Rg11	6	0	20meg	
Rg12	7	0	20meg	
Rg19	9	0	20meg	
Rg20	10	0	20meg	
.ends				
.subckt	OLEFD_EFD20_750811614		3  2  1  5  4  6  9  7  10	
.param RxLkg=3431.2ohm				
.param Leakage=9uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	195.5uH	
Rser1	3b	2	635mohm	
Lpri2	2a	2b	195.5uH	
Rser2	2b	1	635mohm	
Laux1	5	5a	9.68uH	
Rser3	5a	4	167mohm	
Lsec1	6	6a	0.72uH	
Rser5	6a	9	9.2mohm	
Lsec2	7	7a	13.52uH	
Rser6	7a	10	67mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=43pf				
.param Cprm2=40.8pf				
.param Rdmp1=76248.97ohm				
.param Rdmp2=76248.97ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	4	0	20meg	
Rg11	6	0	20meg	
Rg12	7	0	20meg	
Rg19	9	0	20meg	
Rg20	10	0	20meg	
.ends				
.subckt	OLEFD_EFD20_7508116313		3  2  1  5  4  6  9  7  10	
.param RxLkg=3335.04ohm				
.param Leakage=9.3uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	195.35uH	
Rser1	3b	2	780mohm	
Lpri2	2a	2b	195.35uH	
Rser2	2b	1	780mohm	
Laux1	5	5a	18uH	
Rser3	5a	4	275mohm	
Lsec1	6	6a	6.48uH	
Rser5	6a	9	36mohm	
Lsec2	7	7a	6.48uH	
Rser6	7a	10	36mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=48.6pf				
.param Cprm2=46.9pf				
.param Rdmp1=71721.3ohm				
.param Rdmp2=71721.3ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	4	0	20meg	
Rg11	6	0	20meg	
Rg12	7	0	20meg	
Rg19	9	0	20meg	
Rg20	10	0	20meg	
.ends				
.subckt	OLEFD_EFD20_750811644		3  2  1  5  4  6  9  7  10	
.param RxLkg=2829.38ohm				
.param Leakage=7.8uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	196.1uH	
Rser1	3b	2	790mohm	
Lpri2	2a	2b	196.1uH	
Rser2	2b	1	790mohm	
Laux1	5	5a	11.52uH	
Rser3	5a	4	227mohm	
Lsec1	6	6a	15.68uH	
Rser5	6a	9	88mohm	
Lsec2	7	7a	15.68uH	
Rser6	7a	10	92mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=47.5pf				
.param Cprm2=45.15pf				
.param Rdmp1=72548.17ohm				
.param Rdmp2=72548.17ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	4	0	20meg	
Rg11	6	0	20meg	
Rg12	7	0	20meg	
Rg19	9	0	20meg	
Rg20	10	0	20meg	
.ends				
.subckt	OLEFD_EFD25_7508112334		3  2  1  6  5  4  8  11	
.param RxLkg=4355.39ohm				
.param Leakage=4.51uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	101.245uH	
Rser1	3b	2	232mohm	
Lpri2	2a	2b	101.245uH	
Rser2	2b	1	232mohm	
Laux1	6	6a	1.617uH	
Rser3	6a	5	87mohm	
Laux2	5	5a	6.469uH	
Rser4	5a	4	170mohm	
Lsec1	8	8a	8.805uH	
Rser5	8a	11	18.3mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1        1				
.param Cprm1=12.95pf				
.param Cprm2=12.7pf				
.param Rdmp1=99951.95ohm				
.param Rdmp2=99951.95ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	8	0	20meg	
Rg19	11	0	20meg	
.ends				
.subckt	OLEFD_EFD25_7508112514		3  2  1  6  5  4  8  11	
.param RxLkg=2236.74ohm				
.param Leakage=2.61uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	113.695uH	
Rser1	3b	2	230mohm	
Lpri2	2a	2b	113.695uH	
Rser2	2b	1	230mohm	
Laux1	6	6a	1.797uH	
Rser3	6a	5	72mohm	
Laux2	5	5a	7.188uH	
Rser4	5a	4	141mohm	
Lsec1	8	8a	39.132uH	
Rser5	8a	11	54mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1        1				
.param Cprm1=14.8pf				
.param Cprm2=14.65pf				
.param Rdmp1=98553.71ohm				
.param Rdmp2=98553.71ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	8	0	20meg	
Rg19	11	0	20meg	
.ends				
.subckt	OLEFD_EFD25_7508112515		3  2  1  6  5  4  8  11	
.param RxLkg=1932.72ohm				
.param Leakage=2.65uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	123.675uH	
Rser1	3b	2	302.5mohm	
Lpri2	2a	2b	123.675uH	
Rser2	2b	1	302.5mohm	
Laux1	6	6a	1.8uH	
Rser3	6a	5	44mohm	
Laux2	5	5a	9.8uH	
Rser4	5a	4	100mohm	
Lsec1	8	8a	72.2uH	
Rser5	8a	11	97mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1        1				
.param Cprm1=18.8pf				
.param Cprm2=18.6pf				
.param Rdmp1=91165.88ohm				
.param Rdmp2=91165.88ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	8	0	20meg	
Rg19	11	0	20meg	
.ends				
.subckt	OLEFD_EFD25_750811512		3  2  1  6  5  4  7  10  8  11	
.param RxLkg=4252.96ohm				
.param Leakage=10uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	187.5uH	
Rser1	3b	2	617mohm	
Lpri2	2a	2b	187.5uH	
Rser2	2b	1	617mohm	
Laux1	6	6a	3.008uH	
Rser3	6a	5	92.8mohm	
Laux2	5	5a	14.558uH	
Rser4	5a	4	197mohm	
Lsec1	7	7a	1.925uH	
Rser5	7a	10	12mohm	
Lsec2	8	8a	1.925uH	
Rser6	8a	11	12mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=35.9pf				
.param Cprm2=35.1pf				
.param Rdmp1=81869.53ohm				
.param Rdmp2=81869.53ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				
.subckt	OLEFD_EFD25_750811616		3  2  1  6  5  4  7  10  8  11	
.param RxLkg=5529.86ohm				
.param Leakage=6.42uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	113.79uH	
Rser1	3b	2	373mohm	
Lpri2	2a	2b	113.79uH	
Rser2	2b	1	373mohm	
Laux1	6	6a	2.08uH	
Rser3	6a	5	180mohm	
Laux2	5	5a	8.32uH	
Rser4	5a	4	368mohm	
Lsec1	7	7a	1.17uH	
Rser5	7a	10	8mohm	
Lsec2	8	8a	6.37uH	
Rser6	8a	11	21mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=14.4pf				
.param Cprm2=14.1pf				
.param Rdmp1=100777.87ohm				
.param Rdmp2=100777.87ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				
.subckt	OLEFD_EFD25_750811617		3  2  1  6  5  4  7  10  8  11	
.param RxLkg=5875.49ohm				
.param Leakage=8.91uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	193.795uH	
Rser1	3b	2	797.5mohm	
Lpri2	2a	2b	193.795uH	
Rser2	2b	1	797.5mohm	
Laux1	6	6a	3.098uH	
Rser3	6a	5	377mohm	
Laux2	5	5a	14.993uH	
Rser4	5a	4	816mohm	
Lsec1	7	7a	1.983uH	
Rser5	7a	10	11.9mohm	
Lsec2	8	8a	40.146uH	
Rser6	8a	11	115mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=14.5pf				
.param Cprm2=14.15pf				
.param Rdmp1=130731.32ohm				
.param Rdmp2=130731.32ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				
.subckt	OLEFD_EFD25_7508116314		3  2  1  6  5  4  7  10  8  11	
.param RxLkg=3583.64ohm				
.param Leakage=4.4uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	110.3uH	
Rser1	3b	2	246.5mohm	
Lpri2	2a	2b	110.3uH	
Rser2	2b	1	246.5mohm	
Laux1	6	6a	1.62uH	
Rser3	6a	5	91.5mohm	
Laux2	5	5a	8.82uH	
Rser4	5a	4	210mohm	
Lsec1	7	7a	6.48uH	
Rser5	7a	10	20mohm	
Lsec2	8	8a	6.48uH	
Rser6	8a	11	20mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=16.75pf				
.param Cprm2=16.55pf				
.param Rdmp1=91627.22ohm				
.param Rdmp2=91627.22ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				
.subckt	OLEFD_EFD25_750811645		3  2  1  6  5  4  7  10  8  11	
.param RxLkg=2436.44ohm				
.param Leakage=2.8uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	116.1uH	
Rser1	3b	2	307.5mohm	
Lpri2	2a	2b	116.1uH	
Rser2	2b	1	307.5mohm	
Laux1	6	6a	1.692uH	
Rser3	6a	5	113mohm	
Laux2	5	5a	9.212uH	
Rser4	5a	4	254mohm	
Lsec1	7	7a	27.072uH	
Rser5	7a	10	52mohm	
Lsec2	8	8a	27.072uH	
Rser6	8a	11	52mohm	
K Lpri1 Lpri2 Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=14.05pf				
.param Cprm2=13.9pf				
.param Rdmp1=102243.6ohm				
.param Rdmp2=102243.6ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg10	4	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends